US05081239
Synthesis of 4-acetoxyazetidine-2-one
0.71 g of azetidine-2-one and 0.82 g of anhydrous sodium acetate were suspended in 20 ml of acetonitrile and cooled to -5° C., to which 10 ml of acetonitrile containing 0.26 g of ruthenium trichloride.3H2O was added. 3.8 ml of acetic acid containing 40% peracetic acid was carefully dropped thereto so as to maintain the temperature not higher than 0° C., then continuously stirred at 0° C. for 30 minutes. The solvent was distilled off under reduced pressure at a temperature not higher than 40° C., and subjected to silica gel chromatography (eluent: n-hexane:ethyl acetate=1:1) for purification to obtain 0.92 g of the title compound (yield 71%).

reactant | azetidine-2-one | 0.71 g | N1C(CC1)=O | C3H5NO
reactant | sodium acetate | 0.82 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 3.8 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | ruthenium trichloride | [Ru](Cl)(Cl)Cl
solvent | acetonitrile | 10 ml, 0.26 g | C(C)#N | C2H3N
product | 4-acetoxyazetidine-2-one | 0.92 g, yield 71% | C(C)(=O)OC1CC(N1)=O | C5H7NO3
